US06492356B1
b) 4-(Methoxycarbonylmethyloxy)benzoic Acid
5 g of benzyl 4-(methoxycarbonylmethyloxy)benzoate were dissolved in methanol/ethyl acetate and hydrogenated in the presence of 600 mg of catalyst (Pd/C, 10% strength). After flushing with inert gas, the catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was triturated with diisopropyl ether/heptane (9/1) and filtered off with suction. Yield: 3.3 g.

reactant | benzyl 4-(methoxycarbonylmethyloxy)benzoate | 5 g | COC(=O)COC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C17H16O5
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 4-(Methoxycarbonylmethyloxy)benzoic Acid | COC(=O)COC1=CC=C(C(=O)O)C=C1 | C10H10O5
